US08557853B2
(3-Bromo-2-methoxy-phenyl)-methanol:
LiBH4 (5.00 g, 0.23 mmol) was added to a solution of 3-bromo-2-methoxy-benzoic acid methyl ester (10.50 g, 42.80 mmol) in Et2O at 0° C. The reaction mixture was stirred for 5 minutes, MeOH (8.70 mL, 0.22 mmol) was added in a dropwise fashion. The reaction mixture was then stirred for 30 minutes, and was quenched into 1N NaOH. The resulting solution was extracted with Et2O (3×200 mL) and the combined organic phases were washed with brine (1×150 mL), dried over MgSO4 and concentrated to afford the title compound. Spectroscopic data: 1H NMR (300 MHz, CDCl3.) δ 1.68 (t, J=5.86 Hz, 1H), 3.90 (s, 3H), 4.61 (d, J=5.86 Hz, 2H), 6.89 (d, J=8.50 Hz, 1H), 7.25-7.30 (m, J=2.00 Hz, 1H), 7.57 (d, J=2.05 Hz, 1H).

reactant | LiBH4 | 0.23 mmol, 5.00 g | [Li+].[BH4-]
reactant | 3-bromo-2-methoxy-benzoic acid methyl ester | 42.80 mmol, 10.50 g | COC(C1=C(C(=CC=C1)Br)OC)=O | C9H9BrO3
reactant | MeOH | 0.22 mmol, 8.70 mL | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | (3-Bromo-2-methoxy-phenyl)-methanol | BrC=1C(=C(C=CC1)CO)OC | C8H9BrO2
